*model = BSIMSOI (DD)
*Berkeley Spice Compatibility
*
* SOI NMOSFET, floating body simulation

vd d 0 dc 0.05
vs s 0 dc 0
ve e 0 dc 0
vg g 0 dc 3

m1 d g s e n1 w=10u l=0.25u

.option gmin=1e-25 itl1=500 noacct
.dc vg 0 1.5 0.01 ve -4 4 1
.print dc i(vs)
.include nmosdd.mod
